US20010016659A1
A solution of 5-(4-nitrophenoxy)isoindoline-1,3-dione (0.6 g, 2.11 mmol) in conc. AcOH (12 mL) and water (0.1 mL) was stirred under stream of argon while iron powder (0.59 g, 55.9 mmol) was added slowly. This mixture stirred at room temp. for 72 h, then was diluted with water (25 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated under reduced pressure to give 5-(4-aminophenoxy)isoindoline-1,3-dione as a brownish solid (0.4 g, 75%): TLC (50% EtOAc/50% hexane) Rf 0.27; 1H NMR (DMSO-d6) δ5.14 (br s, 2H), 6.62 (d, J=8.7 Hz, 2H), 6.84 (d, J=8.7 Hz, 2H), 7.03 (d, J=2.1 Hz, 1H), 7.23 (dd, 1H), 7.75 (d, J=8.4 Hz, 1H), 11.02 (s, 1H); HPLC ES-MS m/z 255 ((M+H)+, 100%).

reactant | 5-(4-nitrophenoxy)isoindoline-1,3-dione | 2.11 mmol, 0.6 g | [N+](=O)([O-])C1=CC=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C14H8N2O5
solvent | AcOH | 12 mL | CC(=O)O | C2H4O2
solvent | water | 0.1 mL | O | H2O
solvent | water | 25 mL | O | H2O
catalyst | iron | 55.9 mmol, 0.59 g | [Fe] | Fe
product | 5-(4-aminophenoxy)isoindoline-1,3-dione | 0.4 g, 75% | NC1=CC=C(OC=2C=C3C(NC(C3=CC2)=O)=O)C=C1 | C14H10N2O3
